US04609494
(a) Ethyl 3-acetyl-1,2,3,4-tetrahydro-4-(2-acetoxy-5-nitrophenyl)-6-methyl-2-oxo-5-pyrimidine carboxylate (1a)
A suspension of ethyl 1,2,3,4-tetrahydro-4-(2-hydroxy-5-nitrophenyl)-6-methyl-2-oxo-5-pyrimidine carboxylate (1.00 g, 31.0 mmol) in acetic anhydride (25 mL) was heated to reflux for 2 hours. The reaction mixture was cooled and the excess acetic anhydride was removed in vacuo to afford the desired product as a tan solid which was used in the next reaction without purification.

reactant | ethyl 1,2,3,4-tetrahydro-4-(2-hydroxy-5-nitrophenyl)-6-methyl-2-oxo-5-pyrimidine carboxylate | 31.0 mmol, 1.00 g | OC1=C(C=C(C=C1)[N+](=O)[O-])C1NC(NC(=C1C(=O)OCC)C)=O | C14H15N3O6
solvent | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 3-acetyl-1,2,3,4-tetrahydro-4-(2-acetoxy-5-nitrophenyl)-6-methyl-2-oxo-5-pyrimidine carboxylate | C(C)(=O)N1C(NC(=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC(C)=O)C(=O)OCC)C)=O | C18H19N3O8
